US06645968B2
2-chloro-5-isothiocyanatopyridine
A solution of thiophosgene (3.21 mL, 42.1 mmol) in chloroform (10 mL) was heated at reflux and treated with a solution of 5amino-2-chloropyridine (3.61 g, 28.1 mmol) in chloroform (25 mL) for 40 minutes. The solution was heated an additional 2 hours, the reaction mixture was cooled, and the solids formed were removed by filtration. Concentration of the filtrate provided 2.73 g of the desired product as a white solid.

reactant | thiophosgene | 42.1 mmol, 3.21 mL | C(=S)(Cl)Cl | CCl2S
reactant | 5amino-2-chloropyridine | 28.1 mmol, 3.61 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-chloro-5-isothiocyanatopyridine | 2.73 g | ClC1=NC=C(C=C1)N=C=S | C6H3ClN2S
